US07858640B2
Trifluoromethanesulfonic acid 8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yl Ester
A mixture of 8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-ol (0.10 g), N-phenyltrifluoromethanesulfonimide (0.11 g), potassium carbonate (0.11 g) and tetrahydrofuran (3.0 mL) was heated by microwave irradiation at 130° C. for 5 minutes. The mixture was filtered and the filtrate concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel, eluting with dichloromethane gave title compound as a cream solid, 0.11 g.

reactant | 8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-ol | 0.10 g | ClC1=CC=C(C=2C(=C(C(=NC12)C)CC1=CC=C(C=C1)S(=O)(=O)C)C)O | C19H18ClNO3S
reactant | N-phenyltrifluoromethanesulfonimide | 0.11 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | potassium carbonate | 0.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | Trifluoromethanesulfonic acid 8-chloro-3-(4-methanesulfonylbenzyl)-2,4-dimethylquinolin-5-yl Ester | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)S(=O)(=O)C)C)OS(=O)(=O)C(F)(F)F | C20H17ClF3NO5S2
